* A dual opamp ngspice model
* Actual circuit uses TL072.301, available from TI, but we substitute a similar
* model for the regression test to avoid any potential licensing issues.
.subckt TL072c 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
.include TL072-like.lib
XU1A 1in+ 1in- vcc+ vcc- 1out OPAMP
XU1B 2in+ 2in- vcc+ vcc- 2out OPAMP
.ends
